US07160878B2
A mixture of 2-bromo-5-fluoropyridine (72.5 g, 412 mmol), palladium(II) acetate (2.5 g, 11.2 mmol), 1,1′-bis(diphenylphosphino)ferrocene (11.9 g, 21.5 mmol), triethylamine (100 mL), CH3OH (350 mL), and DMF (350 mL) were shaken in a pressure apparatus at 80° C. under 4.1 bar (60 psig) carbon monoxide overnight. The crude mixture was diluted with ether (3 L) and filtered through diatomaceous earth. The filtrate was washed with brine (3×500 mL), dried (Na2SO4), filtered and the solvent removed. Flash chromatography, using 10–25% ethyl acetate in hexanes, afforded 26.2 g (169 mmol, 41% yield) of methyl 5-fluoropyridine-2-carboxylate.

reactant | 2-bromo-5-fluoropyridine | 412 mmol, 72.5 g | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | triethylamine | 100 mL | C(C)N(CC)CC | C6H15N
reactant | CH3OH | 350 mL | CO | CH4O
reactant | carbon monoxide | [C]=O | CO
reactant | ether | 3 L | CCOCC | C4H10O
catalyst | palladium(II) acetate | 11.2 mmol, 2.5 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 21.5 mmol, 11.9 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | DMF | 350 mL | CN(C)C=O | C3H7NO
product | methyl 5-fluoropyridine-2-carboxylate | 169 mmol, 26.2 g, 41% yield | FC=1C=CC(=NC1)C(=O)OC | C7H6FNO2
